US07365085B2
b) 1-(3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-phenyl)-cyclobutanecarboxylic acid methyl ester
To a solution of (3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-phenyl)-acetic acid methyl ester (100 mg, 0.17 mmol) in dry THF (50 ml) was added lithium diisopropylamide (1.26 ml, 0.5 mmol) dropwise with cooling to −78° C. After the reaction mixture was stirred at −78° C. for an additional 1 h, diiodo-propane (152 mg, 0.51 mmol) was added. The reaction was warmed to room temperature over 4 h followed by quenching with saturated ammonium chloride (10 ml). Solvent was removed and the residue was partitioned between water and ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate and concentrated under vacuum. The residue was purified by silica gel column chromatograph (EtOAc:Hexane/20:80) to give the title compound as an oil (40 mg, 50%). MS m/e 636.2 (M+H)+.

reactant | (3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-phenyl)-acetic acid methyl ester | 0.17 mmol, 100 mg | COC(CC1=CC(=CC=C1)OCCCN(CC(C1=CC=CC=C1)C1=CC=CC=C1)CC1=C(C(=CC=C1)C(F)(F)F)Cl)=O | C34H33ClF3NO3
reactant | lithium diisopropylamide | 0.5 mmol, 1.26 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | diiodo-propane | 0.51 mmol, 152 mg | IC(C)(C)I | C3H6I2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 1-(3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-phenyl)-cyclobutanecarboxylic acid methyl ester | 40 mg, 50% | COC(=O)C1(CCC1)C1=CC(=CC=C1)OCCCN(CC(C1=CC=CC=C1)C1=CC=CC=C1)CC1=C(C(=CC=C1)C(F)(F)F)Cl | C37H37ClF3NO3
